US05554620
To a mixture of lithium diisopropylamide (prepared from 4.8 g, (47.8 mmol) of diisopropylamine and 19.1 ml, (2.5M, 47.8 mmol) of n-BuLi) in 50 ml of THF was added isobutyric acid (2.2 ml, 23.9 mmol) at 0° C. and the mixture was allowed to warm to 45° C. with stirring. To the mixture cooled to -78° C., was added 4.3 g (23.9 mmol) of HMPA followed by a solution of 1-octyl bromoacetate (6 g, 23.9 mmol) in 50 ml of THF under argon at -78° C. The mixture was quenched with 1N HCl, warmed to room temperature, and extracted with ether (3×50ml). The organic layer was dried over magnesium sulfate, concentrated in vacuo, and purified by flash chromatography (10% methanol/ethyl acetate) to afford 0.8 g of 3-(1-octyloxycarbonyl)-2,2-dimethylbutyric acid.

reactant | lithium diisopropylamide | 47.8 mmol, 2.5M, 19.1 ml, 4.8 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 47.8 mmol | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 47.8 mmol, 2.5M | [Li]CCCC
reactant | isobutyric acid | 23.9 mmol, 2.2 ml | C(C(C)C)(=O)O | C4H8O2
reactant | HMPA | 23.9 mmol, 4.3 g | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | 1-octyl bromoacetate | 23.9 mmol, 6 g | BrCC(=O)OCCCCCCCC | C10H19BrO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-(1-octyloxycarbonyl)-2,2-dimethylbutyric acid | 0.8 g | C(CCCCCCC)OC(=O)C(C(C(=O)O)(C)C)C | C15H28O4
